US07432276B2
To a solution of 2-hydroxy-6-methoxybenzaldehyde (4.72 g, 30.43 mmol) in dry DMF (50 ml) was added geranyl bromide (7.5 g, 33.50 mmol) followed by solid potassium carbonate (5.5 g, 39.86 mmol). The mixture was stirred at room temperature for 48 h. The suspension was filtered through a layer of dry sodium sulfate (top) and silica gel (bottom), washed with 200 ml ethyl acetate and decanted into a separatory funnel. The mixture washed sequentially with aqueous ammonium chloride, water (twice), brine, and the organic phase was dried over Na2SO4. The solution was concentrated in vacuo on a rotovap. The brown gel material was then purified by chromatography via silica gel using 8:2 hexanes:ethyl acetate eluent to provide 2-((E)-3,7-dimethylocta-2,6-dienyloxy)-6-methoxybenzaldehyde as pale yellow oil.

reactant | 2-hydroxy-6-methoxybenzaldehyde | 30.43 mmol, 4.72 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | geranyl bromide | 33.50 mmol, 7.5 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | potassium carbonate | 39.86 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-((E)-3,7-dimethylocta-2,6-dienyloxy)-6-methoxybenzaldehyde | C\C(=C/COC1=C(C=O)C(=CC=C1)OC)\CCC=C(C)C | C18H24O3
